US08492549B2
(R*)-1-[(S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)methyl]-3-(3-fluoromethoxy-phenyl)-piperidine
(R)-2,3-Dihydro-benzo[1,4]dioxin-2-yl-[(R*)-3-(3-fluoromethoxy-phenyl)-piperidin-1-yl]-methanone (0.13 mmol, 50 mg) was treated with BH3 THF according to the above general procedure. Flash chromatography gave the title compound.

reactant | (R)-2,3-Dihydro-benzo[1,4]dioxin-2-yl-[(R*)-3-(3-fluoromethoxy-phenyl)-piperidin-1-yl]-methanone | 0.13 mmol, 50 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@H](CCC2)C2=CC(=CC=C2)OCF | C21H22FNO4
solvent | THF | C1CCOC1 | C4H8O
product | (R*)-1-[(S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)methyl]-3-(3-fluoromethoxy-phenyl)-piperidine | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C2=CC(=CC=C2)OCF | C21H24FNO3
